US07947851B2
5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-hydroxybenzoic acid hydrochloride salt
To a solution of 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one (240 mg, 8.4 mmol) in EtOH (15 mL) and water (1 mL) was added an aqueous solution of NaOH (0.5 mL, 5N). The reaction mixture was heated under reflux for 2 hrs. Then an aqueous solution of HCl (2 mL, 5N) was added and the solvents were evaporated under reduced pressure to give a brown oil. The oil was taken up with water (10 mL) and extracted with Et2O (2×10 mL). The combined organic layers were dried over MgSO4 and the volume of solvent was half reduced under reduced pressure. Then a solution of HCl in Et2O (2 mL, 1M) was added and a beige solid precipitated out. The solid was filtrated off, washed with Et2O and dried under vacuum to give 155 mg (65%) of the title compound as a beige powder. HPLC, Rt: 4.7 min (purity: 99.7%). LC/MS, M−(ESI): 482.3. 1H NMR (CD3OD) δ: 7.87 (d, J=3.0 Hz, 1H), 7.61 (dd, J=9.0, 3.0 Hz, 1H), 7.49 (d, J=8.3 Hz, 2H), 7.44 (d, J=8.3 Hz, 2H), 7.30 (d, J=8.3 Hz, 2H), 7.24 (d, J=8.3 Hz, 2H), 7.13 (d, J=9.0 Hz, 1H), 4.82 (s, 2H), 3.77 (t, J=8.1 Hz, 2H), 2.67 (t, J=7.5 Hz, 2H), 1.63 (m, 4H), 1.45-1.33 (m, 8H), 0.96 (m, 6H).

reactant | 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 8.4 mmol, 240 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC3=C(OC(OC3=O)(C)C)C=C2)CCCCCC)C=C1 | C35H41NO3
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 5N, 2 mL | Cl | ClH
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | water | 1 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-hydroxybenzoic acid hydrochloride salt | 155 mg, 65% | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)CCCCCC)C=C1 | InChI=1S/C32H37NO3.ClH/c1-3-5-7-8-22-33(29-20-21-31(34)30(23-29)32(35)36)24-28-18-16-27(17-19-28)15-14-26-12-10-25(11-13-26)9-6-4-2;/h10-13,16-21,23,34H,3-9,22,24H2,1-2H3,(H,35,36);1H
